US07390923B2
2-Hydroxy-3-[4-(2-methoxyethyl)phenoxy]-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 1 starting from 4-methoxyethylphenol and 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-1% methanol). 1H NMR (400 MHz, DMSO-d6): 1.43 (3H, s), 2.53 (3H, s), 2.71 (2H, t, J=6.8 Hz), 3.21 (3H, s), 3.45 (2H, t, J=6.8 Hz), 3.94 (1H, d, J=9.5 Hz), 4.17 (1H, d, J=9.5 Hz), 6.20 (1H, s), 6.82 (2H, d, J=7.8 Hz), 7.10 (2H, d, J=8.0 Hz), 7.89 (1H, d, J=9.0 Hz), 7.94 (1H, s), 8.03 (1H, d, J=8.8 Hz), 10.16 (1H, s).

reactant | 4-methoxyethylphenol | COCCC1=CC=C(C=C1)O | C9H12O2
reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 2-Hydroxy-3-[4-(2-methoxyethyl)phenoxy]-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | OC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(COC1=CC=C(C=C1)CCOC)C | C20H24N2O6
